US04089875
10.5 G. of 4'-chloro-2-hydroxy-4-methoxy-benzophenone imine in 60 ml. of ethanol is reacted with 12.6 g. of aminomalonic acid diethyl ester hydrochloride and 5.0 ml. of pyridine in accordance with the procedure described in Example 2. After a single recrystallization of the crude product from ethanol, there is obtained {[2-hydroxy-4-methoxy-α-(4-chlorophenyl)benzyliden]amino}malonic acid diethyl ester, having a melting point of 73°-75° C.

reactant | 4'-chloro-2-hydroxy-4-methoxy-benzophenone imine | ClC1=CC=C(C=C1)C(C1=C(C=C(C=C1)OC)O)=N | C14H12ClNO2
reactant | ethanol | C(C)O | C2H6O
reactant | aminomalonic acid diethyl ester hydrochloride | Cl.C(C)OC(C(C(=O)OCC)N)=O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | {[2-hydroxy-4-methoxy-α-(4-chlorophenyl)benzyliden]amino}malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)N=C(C1=C(C=C(C=C1)OC)O)C1=CC=C(C=C1)Cl)=O | C21H22ClNO6
